US04006137
1,3-Dimethyl-2-[2-(2-thienyl)ethenyl]-1H-imidazolium iodide
A mixture of 5.0 g of 1,2,3-trimethyl-1H-imidazolium iodide, 2ml of 2-thiophenecarboxaldehyde, 20 ml of absolute ethanol and 1 g of potassium hydroxide is refluxed for 25 minutes. Water is added to the cooled mixture and the resulting solid is filtered off. Recrystallization from ethanol yields 3.8 g of the title compound, melting point 309°-311° C.

reactant | 1,2,3-trimethyl-1H-imidazolium iodide | 5.0 g | [I-].C[NH+]1C(N(C=C1)C)C
reactant | 2-thiophenecarboxaldehyde | 2ml | S1C(=CC=C1)C=O | C5H4OS
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 1 g | [OH-].[K+]
solvent | Water | O | H2O
product | 1,3-Dimethyl-2-[2-(2-thienyl)ethenyl]-1H-imidazolium iodide | 3.8 g | [I-].C[NH+]1C(N(C=C1)C)C=CC=1SC=CC1 | InChI=1S/C11H14N2S.HI/c1-12-7-8-13(2)11(12)6-5-10-4-3-9-14-10;/h3-9,11H,1-2H3;1H
